Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Alcohol Intoxication and Suicidal Ideation
 
Major Surgical or Invasive Procedure:
___ Repair of palmar cutaneous nerve, flexor carpi radialis 
tendon repair, and flexor pollicis longus tendon repair
 
History of Present Illness:
Ms. ___ is a ___ year old woman without formal 
psychiatric history, who presented to the emergency room 
transferred from outside hospital for self-injurious behavior 
while intoxicated last night requiring surgical evaluation. 
Patient reports smoking marijuana and drinking ETOH on the night 
prior to admission. She slashed her left forearm "cause [she] 
was drunk - for no good reason" while intoxicated and denied any 
other ingestions. She presented to an OSH for this and was 
transferred to ___ for further psychiatric as well as surgical 
evaluation.

On transfer to ED, VS were 98.7 94 117/72 18 99% RA. There the 
patient continued to deny and SI, HI, or hallucinations 
(auditory or visual). Per psychiatric evaluation, although she 
endorses no intent of ending her life she appeared to have been 
suffering from untreated, increasing depression for the past ___ 
years with multiple acute stressors including a housefire and 
the loss of two friends leading to hopelessness, worthlessness, 
and passive thoughts of death without intent. She did have pain 
at the volar aspect left forearm and was evaluated by ___ 
surgery. She was found to have two lacerations, one more 
proximal and superficial and one distal, near the wrist, deeper 
with tendon involvement. She had sensation only present in the 
___ and ___ digit with numbness and tingling in the ___ 
digits. She had decreased thumb opposition, abduction and 
adduction and difficulty with wrist extension and flexion, 
possibly in large part due to pain.

For testing, she had negative Utox, negative UCG, and dirty U/A. 
She was given TDap and admitted under ___ to medicine for 
further monitoring prior to planned OR on ___.

On the floor, she currently feels well. She is with her mother, 
grandmother, and brother. Her mood is good. Denies any SI, HI, 
auditory or visual hallucinations. She states that she does not 
remember any memories of what happened the night prior. She has 
some pain in her left wrist, and headache. ROS otherwise 
negative for fever, chills, rigors, recent illnesses, chest 
pain, SOB, abd pain, N/V, dysuria, ___ swelling.
 
Past Medical History:
History of Left Upper Extremity Lacerations
Depression
 
Social History:
___
Family History:
No family history of psychiatric or other disease
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VS: 98, 101/41, 106, 18, 96% RA
Gen: Well appearing, sitting up in bed comfortably, in NAD
HEENT: NC/AT, whole head of hair, EOMI, PERRLA, MMM, tongue 
midline on protrusion and symmetric palatal elevation
NECK: symmetric, supple, no anterior cervical, posterior 
cervical or supraclavicular chain LAD b/l; no thyromegaly 
CV: accelerated rate, regular rhythm, no m/r/g
PULM: CTAB without crackles, rhonchi, or wheezes
ABD: soft, ND, NTTP, BS+
GU: no foley
EXT: Left forearm bandaged in a splint; distal digits appear 
well perfused, sensation to light touch intact but decreased 
along all fingertips; otherwise warm, well perfused, no pitting 
edema, DP, ___ 2+ b/l
SKIN: tattoos over left back and LLE
NEURO: A&Ox3, appropriately interactive; moving all extremities 
well with strength ___ in b/l UE and ___ (with exception of 
distal LUE); sensation to light touch intact b/l along UE, 
torso, and ___ (with exception of LUE); without any gross 
deficits appreciated on exam.
PSYCH: Mood is "good"; affect appropriate; otherwise as per HPI.

DISCHARGE PHYSICAL EXAMINATION:
VS: 98.5 ___ 989%RA
Gen: NAD, appears well, LUE elevated and in splint.
CV: RRR, no m/r/g
PULM: CTAB
ABD: soft, ND, NTTP, BS+
EXT: LUE in splint.  Moving fingers with intact sensation on 
fingers.
NEURO: A&Ox3
PSYCH: Pleasant, interactive, no SI, HI.
 
Pertinent Results:
ADMISSION LABS:
___ 05:15PM BLOOD WBC-8.9 RBC-4.50 Hgb-13.6 Hct-40.7 MCV-90 
MCH-30.2 MCHC-33.4 RDW-12.7 RDWSD-42.1 Plt ___
___ 05:15PM BLOOD Neuts-64.3 ___ Monos-8.1 Eos-5.4 
Baso-0.6 Im ___ AbsNeut-5.74 AbsLymp-1.90 AbsMono-0.72 
AbsEos-0.48 AbsBaso-0.05
___ 05:15PM BLOOD ___ PTT-29.4 ___
___ 05:15PM BLOOD Glucose-84 UreaN-12 Creat-0.8 Na-141 
K-3.9 Cl-104 HCO3-26 AnGap-15
___ 05:15PM BLOOD ALT-17 AST-24 LD(LDH)-155 AlkPhos-77 
TotBili-0.3
___ 05:15PM BLOOD Albumin-4.3 Calcium-9.2 Phos-4.3 Mg-2.2

OTHER IMPORTANT LABS:
___ 05:15PM BLOOD ASA-NEG Ethanol-32* Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:15PM BLOOD HIV Ab-Negative
___ 05:15PM BLOOD TSH-1.5
___ 05:15PM BLOOD VitB12-311 Folate-9.5
___ 01:58PM URINE Color-Yellow Appear-Slcldy Sp ___
___ 01:58PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-0.2 pH-5.5 Leuks-TR
___ 01:58PM URINE RBC-4* WBC-13* Bacteri-FEW Yeast-NONE 
Epi-9
___ 01:58PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 01:58PM URINE UCG-NEGATIVE

RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive.

IMAGING AND OTHER STUDIES:
___ CXR (PA/LAT, PRE-OP): Heart size and mediastinum are 
stable.  Lungs are clear. There is no pleural effusion or 
pneumothorax.

DISCHARGE LABS:
___ 07:10AM BLOOD WBC-6.2 RBC-4.20 Hgb-12.7 Hct-38.9 MCV-93 
MCH-30.2 MCHC-32.6 RDW-12.3 RDWSD-41.3 Plt ___
 
Brief Hospital Course:
This is a ___ year old female admitted with self-inflicted L 
forearm laceration in the setting of intoxication and reported 
depression, status post operative repair of palmar cutaneous 
nerve at the level of the distal forearm, flexor carpi radialis 
tendon, flexor pollicis longus tendon, medically stable for 
discharge to inpatient
psychiatry with ___ surgery follow up

# Left cutaneous nerve injury / Laceration of L flexor carpi 
radialis tendon and flexor pollicis longus tendon / 
Self-Inflicted Wound - The patient self-lacerated her left 
forearm while intoxicated, suspected to be attempt to harm self. 
 This appears to have occurred in the setting of progressive 
depressive symptoms. Her injuries were both superficial and 
deep, involving the median nerve and possible flexor/extensor 
tendons. She was evaluated by ___ surgery and taken to the 
operating room on ___ for repair of palmar cutaneous nerve 
at the level of the distal forearm, flexor carpi radialis 
tendon, flexor pollicis longus tendon. Pain managed with 
acetaminophen and tramadol, wound was splinted by OT.  Patient 
stable with improving exam and was able to be discharged (as 
below) with plan for outpatient follow-up with Dr. ___ 
___ Surgery. 

# Unspecified Depression Disorder with suicidal ideation: The 
patient appeared on admission to have severe depressive 
symptoms, progressive over the few months prior to admission 
amidst multiple stressors in her life. She was evaluated by 
psychiatry and felt to be a significant danger to herself and 
admitted under ___. She was evaluated for potential 
organic causes of mood changes, without any significant 
findings. She was monitored closely under 1:1 attention and 
medically stabilized as above prior to discharge to an inpatient 
psychiatry facility for further care.

# Alcohol abuse: The patient, per collateral from her parents, 
had been consuming an increasingly significant amount of alcohol 
recently. On admission, her serum alcohol was still positive at 
32 even >24 hours after her reported last drink. She was 
monitored closely on CIWA during this admission and provided 
counseling regarding cessation of her alcohol use.  Of note, she 
did not score on CIWA and required no lorazepam for alcohol 
withdrawal symptoms.

# Borderline low-normal B12 levels: The patient, as above, has 
had increasing depression and alcohol abuse prior to admission 
and was found to have low-normal B12 levels. She was provided PO 
B12 repletion during this admission, which was continued at time 
of discharge.

# Tobacco abuse: The patient had a smoking history of ___ 
pack/day x ___ years prior to admission. She was provided 
smoking cessation counseling as well as nicotine replacement 
therapy during her hospitalization. She should continue 
receiving assistance with smoking cessation as an outpatient.

Transitional Issues:
- Discharged to inpatient psychiatry
- Would continue to counsel on cigarette and alcohol cessation
- Patient has follow-up scheduled with Dr. ___ on ___ 
___ Surgery).
-Code: Full
-Contact: Mother ___ Grandmother ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain/fever 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*0
2. Cyanocobalamin 100 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) [Vitamin B-12] 100 mcg 1 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*0
3. Ibuprofen 600 mg PO Q8H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 8 hours Disp 
#*30 Tablet Refills:*0
4. Nicotine Patch 14 mg TD DAILY 
RX *nicotine 14 mg/24 hour Apply one patch daily Disp #*28 Patch 
Refills:*0
5. TraMADol 25 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every 4 
hours Disp #*15 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
# Left cutaneous nerve injury / Laceration of L flexor carpi 
radialis tendon and flexor pollicis longus tendon / 
Self-Inflicted Wound 
# Unspecified Depression Disorder with suicidal ideation
# Alcohol abuse
# Borderline low-normal B12 levels
# Tobacco abuse
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted because you displayed dangerous behavior after 
cutting your arm while intoxicated. You were initially seen at 
an outside hospital before being transferred to ___ for 
further evaluation. Here, you were seen by the ___ surgery 
team, who operated on your ___ to repair the damaged nerves and 
tendons in your arm. You were provided medications for your 
pain. You were also seen by the psychiatry team, who felt that 
you should go to an inpatient treatment program. You were 
monitored closely in the hospital before and after your surgery 
before being discharged to an inpatient psychiatric facility to 
further treatment.  Your arm will need to be wrapped with gauze 
and you should continue to wear your splint.  You will need to 
follow up with Dr. ___ surgeon, on ___ at 
1:30 ___.  Thank you for allowing us to be a part of your care. 

Sincerely,

Your ___ Team
 
Followup Instructions:
___